datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"O=[N+]([O-])c1cccc2ccc([NH2:10])cc12.c1ccc(-c2ccc3n(cc[n+:21]3[H:20])n2)cc1>>O=[N+]([O-])c1cccc2ccc([NH2+:10][H:20])cc12.c1ccc(-c2ccc3n(cc[n:21]3)n2)cc1 10=20;20,21=21",
"Nc1ccc(B(O)[O-:10])c([N+](=O)[O-])c1.O=C(c1[nH]c2ccccc2[nH+]1)[O:21][H:20]>>Nc1ccc(B(O)[O:10][H:20])c([N+](=O)[O-])c1.O=C(c1[nH]c2ccccc2[nH+]1)[O-:21] 10=20;20,21=21",
"CC1=CC(=O)C=C(C)C1=N[O-:10].Nc1cc[n+:21]([H:20])c2ccc3ncccc3c12>>CC1=CC(=O)C=C(C)C1=N[O:10][H:20].Nc1cc[n:21]c2ccc3ncccc3c12 10=20;20,21=21",
"CC1=C(CC(C)[NH+:21](CC(O)c2ccc(Br)cc2)[H:20])CCC1(C)C.Cc1ccc([NH2:10])cc1[N+](=O)[O-]>>CC1=C(CC(C)[NH:21]CC(O)c2ccc(Br)cc2)CCC1(C)C.Cc1ccc([NH2+:10][H:20])cc1[N+](=O)[O-] 10=20;20,21=21",
"CN(C)C(=O)n1nc(C(C)(C)C)nc1SCC(=O)[O:21][H:20].Cc1ncc(CO)c(C[NH2:10])c1[O-]>>CN(C)C(=O)n1nc(C(C)(C)C)nc1SCC(=O)[O-:21].Cc1ncc(CO)c(C[NH2+:10][H:20])c1[O-] 10=20;20,21=21",
"Oc1ccc([O-:10])c(Cl)c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Oc1ccc([O:10][H:20])c(Cl)c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"COc1ccc2[nH]cc(CC(C)[NH2:10])c2c1.c1ccc2cc3c(cc2c1)nc[n:21]3[H:20]>>COc1ccc2[nH]cc(CC(C)[NH2+:10][H:20])c2c1.c1ccc2cc3c(cc2c1)nc[n-:21]3 10=20;20,21=21",
"CC[C@]1(O)C[C@@H](C)[NH+:21]([H:20])[C@@H]2CCCC[C@H]21.c1cc([O-:10])c2ccncc2c1>>CC[C@]1(O)C[C@@H](C)[NH:21][C@@H]2CCCC[C@H]21.c1cc([O:10][H:20])c2ccncc2c1 10=20;20,21=21",
"CC/C=C/CC1=[NH+]C(C(=O)[O:21][H:20])C2SC(C)(C)C(C(=O)O)N12.C[N:10]1CCCC1c1ccccc1>>CC/C=C/CC1=[NH+]C(C(=O)[O-:21])C2SC(C)(C)C(C(=O)O)N12.C[N+:10]1([H:20])CCCC1c1ccccc1 10=20;20,21=21",
"C=Cc1ccc([O:21][H:20])cc1.Cc1cc(C(c2ccc(N)cc2)c2ccc(N)cc2)ccc1[NH2:10]>>C=Cc1ccc([O-:21])cc1.Cc1cc(C(c2ccc(N)cc2)c2ccc(N)cc2)ccc1[NH2+:10][H:20] 10=20;20,21=21",
"c1cc2cc[nH]c2[n+:21]([H:20])c1.c1ccc2c(c1)CC[NH:10]C2>>c1cc2cc[nH]c2[n:21]c1.c1ccc2c(c1)CC[NH+:10]([H:20])C2 10=20;20,21=21",
"CCOC(=O)C(CC)[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCOC(=O)C(CC)[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"NC(=O)Cc1cc[n:10]cc1.O=CO[O:21][H:20]>>NC(=O)Cc1cc[n+:10]([H:20])cc1.O=CO[O-:21] 10=20;20,21=21",
"NCCCC[NH:10]CCCN.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>NCCCC[NH+:10](CCCN)[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"COc1ccc2c3c1O[C@H]1[C@@H](O)C=C[C@H]4[C@@H](C2)[N+:21](C)([H:20])CC[C@@]341.C[N+](C)(C)CC[NH2:10]>>COc1ccc2c3c1O[C@H]1[C@@H](O)C=C[C@H]4[C@@H](C2)[N:21](C)CC[C@@]341.C[N+](C)(C)CC[NH2+:10][H:20] 10=20;20,21=21",
"O=C(Cc1ccc(Cl)s1)[O:21][H:20].O=S(=O)(c1ccccc1)[N-:10]c1ccc(Br)cc1>>O=C(Cc1ccc(Cl)s1)[O-:21].O=S(=O)(c1ccccc1)[N:10](c1ccc(Br)cc1)[H:20] 10=20;20,21=21",
"C=CC(CC(C)(C)C)c1ccc2cccnc2c1[O-:10].S=C1[N-]c2ncncc2[N:21]1[H:20]>>C=CC(CC(C)(C)C)c1ccc2cccnc2c1[O:10][H:20].S=C1[N-]c2ncncc2[N-:21]1 10=20;20,21=21",
"Brc1ccc2c(c1)CC[NH:10]2.COC(=O)C1C[N+:21]2([H:20])CCC1CC2>>Brc1ccc2c(c1)CC[NH+:10]2[H:20].COC(=O)C1C[N:21]2CCC1CC2 10=20;20,21=21",
"CCC[NH:10]CC(=O)[O-].O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>CCC[NH+:10](CC(=O)[O-])[H:20].O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"Cc1ccc(C[NH2:10])cc1N.O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>Cc1ccc(C[NH2+:10][H:20])cc1N.O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"CCCCCCCCCCCCCCC[NH:10]CCCCCCCCCCCCCCC.N#CC1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>CCCCCCCCCCCCCCC[NH+:10](CCCCCCCCCCCCCCC)[H:20].N#CC1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"CC1(C)CCC(C(=O)[O:21][H:20])=[N+]1[O-].O=C(c1cc(Br)cs1)[O-:10]>>CC1(C)CCC(C(=O)[O-:21])=[N+]1[O-].O=C(c1cc(Br)cs1)[O:10][H:20] 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O=C([O-])C(Cc1nc[n-]n1)[NH2:10]>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C([O-])C(Cc1nc[n-]n1)[NH2+:10][H:20] 10=20;20,21=21",
"NC(=S)[N-:10]c1ccc(Br)cc1.O=C1CCC([O-])=C1[O:21][H:20]>>NC(=S)[N:10](c1ccc(Br)cc1)[H:20].O=C1CCC([O-])=C1[O-:21] 10=20;20,21=21",
"C[Si](C)(C)CC[NH2:10].O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>C[Si](C)(C)CC[NH2+:10][H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CC1(C)SC2C(C(=O)[O-])[N+:21]([H:20])=C(CCC[C@H](N)C(=O)[O-])N2[C@@H]1C(=O)[O-].CC[NH+](CC)Cc1cc(Cl)cc(Cl)c1[O-:10]>>CC1(C)SC2C(C(=O)[O-])[N:21]=C(CCC[C@H](N)C(=O)[O-])N2[C@@H]1C(=O)[O-].CC[NH+](CC)Cc1cc(Cl)cc(Cl)c1[O:10][H:20] 10=20;20,21=21",
"C[Si](C)(C)c1ccc(C(=O)[O-:10])cc1.Nc1cccc[n+]1[O:21][H:20]>>C[Si](C)(C)c1ccc(C(=O)[O:10][H:20])cc1.Nc1cccc[n+]1[O-:21] 10=20;20,21=21",
"O=C([O-])CCC#CC#CCC[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=C([O-])CCC#CC#CCC[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"ClC1CC2CC[N:10]1CC2.O=S(=O)(c1ccc(F)cc1)[NH:21][H:20]>>ClC1CC2CC[N+:10]1([H:20])CC2.O=S(=O)(c1ccc(F)cc1)[NH-:21] 10=20;20,21=21",
"CC[NH+](CC)C/C(=N\[O:21][H:20])C(C)=NO.Nc1cc(N)[n:10]c2ccccc12>>CC[NH+](CC)C/C(=N\[O-:21])C(C)=NO.Nc1cc(N)[n+:10]([H:20])c2ccccc12 10=20;20,21=21",
"CC(Cc1ccccc1)[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC(Cc1ccccc1)[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
